US05434150
4-[N-(4-Cyano-benzoyl)-methylamino]-3-nitro-benzoic acid-[N-(3-methoxycarbonyl-propyl)-amide]
2.84 g of N-ethyl-diisopropylamine are added, with cooling to 0° C., to a mixture of 3.2 g of 4-[N-(4-cyano-benzoyl)-methylamino]-3-nitro-benzoylchloride, 1.68 g of methyl 4-aminobutyrate-hydrochloride and 50 ml of methylene chloride. The mixture is stirred for 64 hours and allowed to return to ambient temperature. The methylene chloride is evaporated off and the residue is purified over silica gel (eluant:ethyl acetate/ethanol=200:1). Yield: 3.9 g (100% of theory), Rf value: 0.62 (silica gel; ethyl acetate/ethanol=9:1)

reactant | N-ethyl-diisopropylamine | 2.84 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-[N-(4-cyano-benzoyl)-methylamino]-3-nitro-benzoylchloride | 3.2 g | C(#N)C1=CC=C(C(=O)N(C2=C(C=C(C(=O)Cl)C=C2)[N+](=O)[O-])C)C=C1 | C16H10ClN3O4
reactant | methyl 4-aminobutyrate-hydrochloride | 1.68 g | Cl.NCCCC(=O)OC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[N-(4-Cyano-benzoyl)-methylamino]-3-nitro-benzoic acid-[N-(3-methoxycarbonyl-propyl)-amide] | COC(=O)CCCNC(C1=CC(=C(C=C1)N(C(C1=CC=C(C=C1)C#N)=O)C)[N+](=O)[O-])=O | C21H20N4O6
